US09085581B2
Preparation of (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid sodium salt hydrate
(R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid (20 mg) was dissolved in IPA (0.5 mL) with heating, and 2.0 M NaOH (21 uL) was added. The solution was allowed to cool to room temperature and stir for 24 h. The resultant solids that had formed were collected after decanting off the IPA.

reactant | (R)-2-(9-Chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | 20 mg | ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)O | C24H23ClF3NO4
reactant | NaOH | 2.0 M, 21 uL | [OH-].[Na+]
solvent | IPA | 0.5 mL | CC(C)O | C3H8O
product | (R)-2-(9-chloro-7-(4-isopropoxy-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid sodium salt hydrate | O.[Na+].ClC1=C2N(C=3C=CC(=CC13)OCC1=CC(=C(C=C1)OC(C)C)C(F)(F)F)CC[C@@H]2CC(=O)[O-] | InChI=1S/C24H23ClF3NO4.Na.H2O/c1-13(2)33-20-6-3-14(9-18(20)24(26,27)28)12-32-16-4-5-19-17(11-16)22(25)23-15(10-21(30)31)7-8-29(19)23;;/h3-6,9,11,13,15H,7-8,10,12H2,1-2H3,(H,30,31);;1H2/q;+1;/p-1/t15-;;/m1../s1
